US06903118B1
N-{2-[4-(naphthalin-2-yl-sulfonyl)-piperazin-1-yl]-ethyl}-3-pyridin-3-yl-acrylamide (Substance 227)
Batch size: 8.0 g (22.6 mmol) N-(2-(piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylamide.trihydrochloride (substance 317 as a trihydrochloride), 13 ml (92.7 mmol) TEA and 5.6 g (24.9 mmol) naphthalin-2-sulfonic acid chloride in 180 ml absolute dichloromethane.

reactant | N-(2-(piperazin-1-yl)-ethyl]-3-pyridin-3-yl-acrylamide | 22.6 mmol, 8.0 g | N1(CCNCC1)CCNC(C=CC=1C=NC=CC1)=O | C14H20N4O
reactant | naphthalin-2-sulfonic acid chloride | 24.9 mmol, 5.6 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | dichloromethane | 180 ml | ClCCl | CH2Cl2
product | N-{2-[4-(naphthalin-2-yl-sulfonyl)-piperazin-1-yl]-ethyl}-3-pyridin-3-yl-acrylamide | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)N1CCN(CC1)CCNC(C=CC=1C=NC=CC1)=O | C24H26N4O3S
